US04650804
To a solution of 3-ethoxycarbonyl-4H-quinolizin-4-one (2.17 g) in methanol (65.2 ml) was added dropwise 6N aqueous sodium hydroxide (6.5 ml) at room temperature. After stirring for 20 minutes, water (10 ml) was added. After stirring for 20 minutes, water (30 ml) was also added. After stirring for an hour, the reaction mixture was acidified to pH 3 with 4N aqueous hydrochloric acid. The precipitate was filtered and washed with water to give 4H-quinolizin-4-one-3-carboxylic acid (1.75 g) as pale yellow crystal. mp 233° C.

reactant | 3-ethoxycarbonyl-4H-quinolizin-4-one | 2.17 g | C(C)OC(=O)C1=CC=C2C=CC=CN2C1=O | C12H11NO3
reactant | sodium hydroxide | 6N, 6.5 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 65.2 ml | CO | CH4O
product | 4H-quinolizin-4-one-3-carboxylic acid | 1.75 g | C=1C=C(C(N2C=CC=CC12)=O)C(=O)O | C10H7NO3
